US06599902B2
Synthesis of 2-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-N-[2-(4-hydroxy-piperidin-1-yl)-ethyl]-acetamide
A mixture of {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid (100 mg, 0.19 mmol), DIPEA (115 mg, 5 eq.) and 1-(2-amino-ethyl)-piperidin-4-ol TFA salt (88 mg, 1.2 eq.) in 2 mL) was stirred at rt for 45 mins. To the mixture was added HATU (83 mg, 1.1 eq.). After stirring for 18 hours, the reaction was concentrated and purified on a silica gel column to give the titled compound as an orange solid.

reactant | {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid | 0.19 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)O)C | C24H20Cl2N2O5S
reactant | DIPEA | 115 mg, 5 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(2-amino-ethyl)-piperidin-4-ol TFA salt | 88 mg, 1.2 eq. | OC(=O)C(F)(F)F.NCCN1CCC(CC1)O
reactant | HATU | 83 mg, 1.1 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | 2-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-N-[2-(4-hydroxy-piperidin-1-yl)-ethyl]-acetamide | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)NCCN1CCC(CC1)O)C | C31H34Cl2N4O5S
